US05795897
3-Methyl-7-(methylpivaloyl)xanthine (406 mg, 1.5 mmol) was added to a stirring suspension of NaH (36 mg, 1.5 mmol) in DMSO (20 ml) and stirred for 15 min. 6-Bromo-2-hexanone (260 mg, 1.5 mmol) was added and the reaction mixture was stirred for 20 hrs. The reaction mixture was poured into 100 ml of water and extracted with 25% ethanol/dichloromethane (3×40 ml). The combined organic extracts were combined, dried with magnesium sulfate and the solvent was removed under vacuum to give a brown oil. The brown oil was chromatographed (10 g silica gel, ethyl acetate) to give 1-(5-oxohexyl)-3-methyl-7-(methylpivaloyl)xanthine (270 mg, 49% yield)

reactant | 3-Methyl-7-(methylpivaloyl)xanthine | 1.5 mmol, 406 mg | CN1C(NC(C=2N(C=NC12)C(C(CC)(C)C)=O)=O)=O | C12H16N4O3
reactant | NaH | 1.5 mmol, 36 mg | [H-].[Na+]
reactant | 6-Bromo-2-hexanone | 1.5 mmol, 260 mg | BrCCCCC(C)=O | C6H11BrO
reactant | water | 100 ml | O | H2O
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | 1-(5-oxohexyl)-3-methyl-7-(methylpivaloyl)xanthine | 270 mg, 49% yield | O=C(CCCCN1C(=O)N(C=2N=CN(C2C1=O)C(C(CC)(C)C)=O)C)C | C18H26N4O4
